US08247430B2
3,9,9-Trimethyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluoren-6-ylamine (156)
3,9,9-Trimethyl-6-nitro-4,9-dihydro-3H-3-aza-fluorene (700 mg) was dissolved in EtOH (20 mL) with aqueous HCl (1N, 5 mL) and suspended with Pd/C (10%, 100 mg). The flask was capped with a balloon filled with H2. The reaction was completed in 6 h at RT. The reaction mixture was filtered through a layer of Celite® with MeOH. The combined filtrate was concentrated to give desired compound. (MS: M+H=231).

reactant | 3,9,9-Trimethyl-6-nitro-4,9-dihydro-3H-3-aza-fluorene | 700 mg | CN1C=CC=2C(C3=CC=C(C=C3C2C1)[N+](=O)[O-])(C)C | C15H16N2O2
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | HCl | 1N, 5 mL | Cl | ClH
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3,9,9-Trimethyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluoren-6-ylamine | CN1CCC2C(C3=CC=C(C=C3C2C1)N)(C)C | C15H22N2
